US04031107
Crude 1-hydroxy-4,6-dinitro-2 -(trifluoromethyl)-benzimidazole (about 5 grams) was mixed with about 50 milliliters of thionyl chloride and several drops of dimethylformamide added. The reaction mixture was stirred overnight, then poured slowly into water and filtered. The solid was dissolved in benzene and eluted off a silica column with benzene. As a result of the foregoing operations, the desired 7-chloro-4,6-dinitro-2-(trifluoromethyl) benzimidazole product was obtained, m.p., 189° -91° C.

reactant | 1-hydroxy-4,6-dinitro-2 -(trifluoromethyl)-benzimidazole | about 5 grams | ON1C(=NC2=C1C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C8H3F3N4O5
reactant | thionyl chloride | about 50 milliliters | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | several drops | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-chloro-4,6-dinitro-2-(trifluoromethyl) benzimidazole | ClC1=C(C=C(C2=C1N=C(N2)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C8H2ClF3N4O4
